US05981721
To 1.5 mL of anhydrous DMF in a 3 mL flask was added p-chlorobenzaldehyde (0.0663 g, 4.72×E-4 moles). While purging the flask with nitrogen, Amphotericin B (0.1511 g, 1.51×E-4 moles) is slowly sifted into the vigorously stirred solution over 3 to 4 minutes. All the solid dissolved within 15 minutes and stirring was continued for an additional 30 minutes. At this point all the Amphotericin B was converted to the soluble N-p-chlorobenzylidine derivative. To the clear yellow solution was added N,N-diisopropylethylamine (0.079 mL, 4.53×E-4 moles) followed by methyl p-toluenesulfonate (0.0843 g, 4.53×E-4 moles). The reaction mixture was allowed to stir for 22 hours at ambient temperature and a small aliquot of the reaction mixture was removed and analyzed by reverse phase HPLC. The analysis indicated no unreacted Amphotericin B was present in the reaction mixture. The major component of the product mixture was Amphotericin B methyl ester. The mixture was added to 15 mL of methyl tert.-butyl ether and a yellow solid precipitated. The solid was separated by centrifugation and washed once with 10 mL of methyl tert.-butyl ether. Drying under high vacuum afforded 0.184 g of p-chlorobenzylidine Amphotericin B methyl ester.

reactant | p-chlorobenzaldehyde | 4 moles, 0.0663 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Amphotericin B | 4 moles, 0.1511 g | C[C@H]1/C=C/C=C/C=C/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H](C[C@H]([C@@H](CC[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)O)O[C@H]3[C@H]([C@H]([C@@H]([C@H](O3)C)O)N)O | C47H73NO17
reactant | N,N-diisopropylethylamine | 4 moles, 0.079 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl p-toluenesulfonate | 4 moles, 0.0843 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | Amphotericin B methyl ester | 0.184 g | C[C@H]1/C=C/C=C/C=C/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H](C[C@H]([C@@H](CC[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)OC)O[C@H]3[C@H]([C@H]([C@@H]([C@H](O3)C)O)N)O | C48H75NO17
